US06833387B1
Ethyl N-(3,4-dichlorobenzyl)-3-(tetrahydrofurfurylcarbamoyl)indole-2-carboxylate (Ethyl ester of Compound 68)
To a stirred solution of ethyl N-(3,4-dichlorobenzyl)-2-ethoxycarbonylindole-3-carboxylic acid (100 mg) in dichloromethane (4 ml) at ambient temperature, under argon, was added DMF (1 drop) and oxalyl chloride in dichloromethane (2M, 153 μl). The reaction was stirred at ambient temperature for 7 hours, then concentrated in vacuo and dissolved in dichloromethane (4 ml). Tetrahydrofurfurylamine (53 μl) was added, followed by triethylamine (71 μl) and the reaction stirred under argon for 16 hours. The reaction was diluted with dichloromethane (30 ml), washed with HCl (2M, 30 ml) and water (30 ml), dried (MgSO4) and concentrated in vacuo to give a crude residue which was purified by column chromatography, using ethyl acetate:iso-hexane as eluent (gradient 10/90-50/50), to give the product as an off-white solid (57 mg, 47%); M/z (+) 475.3 (MH+),

reactant | ethyl N-(3,4-dichlorobenzyl)-2-ethoxycarbonylindole-3-carboxylic acid | 100 mg | C(C)C1=C2C(=C(N(C2=CC=C1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC)C(=O)O | C21H19Cl2NO4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | dichloromethane | 2M, 153 μl | ClCCl | CH2Cl2
product | Ethyl N-(3,4-dichlorobenzyl)-3-(tetrahydrofurfurylcarbamoyl)indole-2-carboxylate | 57 mg, 47% | ClC=1C=C(CN2C(=C(C3=CC=CC=C23)C(NCC2CCCO2)=O)C(=O)OCC)C=CC1Cl | C24H24Cl2N2O4
